US09376422B2
5-Chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoic acid
To a stirred solution of methyl 5-chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoate (1.06 g, 3.26 mmol) in methanol (10 mL) was added aq. NaOH (5 M, 780 ul, 3.92 mmol). The reaction mixture was stirred at 50° C. for 18 hours. After cooling to 23° C., HCl (2 M, 2 mL)) was added to the mixture and the mixture was acidified to pH=5 and was concentrated in vacuo to give the titled compound as crude products (1.80 g).

reactant | methyl 5-chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoate | 3.26 mmol, 1.06 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCN(CC1)C)CC | C17H25ClN2O2
reactant | NaOH | 3.92 mmol, 5 M, 780 ul | [OH-].[Na+]
reactant | HCl | 2 M, 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-Chloro-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methylbenzoic acid | ClC=1C=C(C(=C(C(=O)O)C1)C)N(C1CCN(CC1)C)CC | C16H23ClN2O2
